US07384982B2
Preparation of Monosodium N-(5-chlorosalicyloyl)-8-aminocaprylate
A 22 L, Pyrex glass, five-neck, round bottom flask was equipped with an overhead stirrer, thermocouple temperature read out, and heating mantle. The flask was charged with 2099.7 g of N-(5-chlorosalicyloyl)-8-aminooctanoic acid and 6000 mL water and stirred. To this slurry was added a solution of 265 g of sodium hydroxide dissolved in 2000 mL water. The mixture was heated to about 80° C. causing most of the solids to dissolve. The undissolved material was allowed to settle to the bottom of the flask and the supernate decanted. The resulting mixture was transferred to the pot flask of a large laboratory rotary evaporator. The rotary evaporator was operated with a bath temperature of about 60° C. and a pressure of about 70 mmHg. Water was removed from the disodium salt mixture until a solid mass was obtained in the rotary evaporator pot flask. The vacuum was released and pot flask removed from the rotary evaporator. The solids were scraped from the pot flask into trays. These trays were then placed in a vacuum oven and the solids dried at about 60° C. and full vacuum for about 48 hours. The dried solids were run through a laboratory mill until all the solids passed through a 35 mesh screen. The milled and seived disodium N-(5-chlorosalicyloyl)-8-aminooctanate was put into trays and placed back into the drying oven. Drying was continued at fill vacuum to yield 2161.7 g of the desired product as a dry powder.

reactant | N-(5-chlorosalicyloyl)-8-aminooctanoic acid | 2099.7 g | ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)O)=C1)O | C15H20ClNO4
reactant | sodium hydroxide | 265 g | [OH-].[Na+]
solvent | water | 2000 mL | O | H2O
solvent | water | 6000 mL | O | H2O
product | Monosodium N-(5-chlorosalicyloyl)-8-aminocaprylate | 2161.7 g | ClC1=CC=C(C(C(=O)NCCCCCCCC(=O)[O-])=C1)O.[Na+] | InChI=1S/C15H20ClNO4.Na/c16-11-7-8-13(18)12(10-11)15(21)17-9-5-3-1-2-4-6-14(19)20;/h7-8,10,18H,1-6,9H2,(H,17,21)(H,19,20);/q;+1/p-1
